US07960436B2
[1-Amino-5-(4-trifluoromethyl-phenylamino)-5,6,7,8-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester
To a solution of a mixture of [1-nitro-5-(4-trifluoromethyl-phenylamino)-5,6,7,8-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester and [3-Nitro-5-(4-trifluoromethyl-phenylamino)-5,6,7,8-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester (500 mg) in 20 ml of methanol was added a catalytic amount of Raney Ni. The resulting mixture was hydrogenated under regular pressure at room temperature for 4 hours. The reaction mixture was filtered through celite and washed with methanol. The filtrate was evaporated to dryness in vacuo and the residue was separated by preparative HPLC to give two products as white solids in a quantitative yield.

reactant | [1-nitro-5-(4-trifluoromethyl-phenylamino)-5,6,7,8-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester | C(C)OC(NC1=C(C=2CCCC(C2C=C1)NC1=CC=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C20H20F3N3O4
reactant | [3-Nitro-5-(4-trifluoromethyl-phenylamino)-5,6,7,8-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester | 500 mg | C(C)OC(NC1=CC=2CCCC(C2C=C1[N+](=O)[O-])NC1=CC=C(C=C1)C(F)(F)F)=O | C20H20F3N3O4
solvent | methanol | 20 ml | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | [1-Amino-5-(4-trifluoromethyl-phenylamino)-5,6,7,8-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester | quantitative yield | C(C)OC(NC1=C(C=2CCCC(C2C=C1)NC1=CC=C(C=C1)C(F)(F)F)N)=O | C20H22F3N3O2
